US05654294
a) (3R-cis) -Tetrahydro-5-oxo-3-phenyl-6-[[(phenylmethoxy)carbonyl]amino]- 1,4-thiazepine-4(5H)-acetic acid, ethyl ester
A solution of (3R-cis)-tetrahydro-3-phenyl-6-[[(phenylmethoxy)carbonyl]amino]-1,4-thiazepin-5(4H)-one (1.16 g., 3.25 mmol) [prepared as described by Yanagisawa et al., J. Med. Chem., Vol. 30, p. 1984-1991 (1987)] in distilled tetrahydrofuran (30 ml.), under an atmosphere of argon, was cooled to 0° C. and treated with powdered potassium hydroxide (540 mg., 10 mmol) and tetrabutylammonium bromide (97 mg, 0.3 mmol). Ethyl bromoacetate (501 mg., 3 mmol) was added dropwise with stirring. The mixture was stirred cold for two hours and then additional ethyl bromoacetate (501 mg., 3 mmol) was added. The mixture was stirred cold for an additional two hours and then diluted with ethyl acetate (50 ml) and anhydrous magnesium sulfate was added. The reaction mixture was filtered through a magnesium sulfate pad and the pad was washed several times with ethyl acetate. The filtrate was poured into cold 1N hydrochloric acid solution (40 ml) and the layers were separated. The organic layer was dried (magnesium sulfate), filtered and freed of solvent in vacuo leaving an oil which was purified by chromatography on silica gel, eluting with 10-30% ethyl acetate in hexane to give 730 mg. of product; Rf =0.32 (ethyl acetate:hexanes, 1:2).

reactant | (3R-cis)-tetrahydro-3-phenyl-6-[[(phenylmethoxy)carbonyl]amino]-1,4-thiazepin-5(4H)-one | 3.25 mmol, 1.16 g | C1(=CC=CC=C1)[C@@H]1CSC[C@@H](C(N1)=O)NC(=O)OCC1=CC=CC=C1 | C19H20N2O3S
reactant | potassium hydroxide | 10 mmol, 540 mg | [OH-].[K+]
reactant | Ethyl bromoacetate | 3 mmol, 501 mg | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl bromoacetate | 3 mmol, 501 mg | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium bromide | 0.3 mmol, 97 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
product | (3R-cis) -Tetrahydro-5-oxo-3-phenyl-6-[[(phenylmethoxy)carbonyl]amino]- 1,4-thiazepine-4(5H)-acetic acid, ethyl ester | O=C1N([C@@H](CSC[C@@H]1NC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)CC(=O)OCC | C23H26N2O5S
